* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.0018967078909891484
Fd1_1 0 s1 V1 0.09483539454945743
Gr1_re_1_1 0 s1 x1_re_a1 0 -78388835.5298631
Gr1_im_1_1 0 s1 x1_im_a1 0 -4905013.071011207
Gr2_re_1_1 0 s1 x2_re_a1 0 -195015091.02453598
Gr2_im_1_1 0 s1 x2_im_a1 0 161528931.5648591
Gr3_re_1_1 0 s1 x3_re_a1 0 -200223214.72103286
Gr3_im_1_1 0 s1 x3_im_a1 0 -495761964.22459775
Gr4_re_1_1 0 s1 x4_re_a1 0 -12341595.771723654
Gr4_im_1_1 0 s1 x4_im_a1 0 263755246.08417335
Gr5_re_1_1 0 s1 x5_re_a1 0 181210874.26842892
Gr5_im_1_1 0 s1 x5_im_a1 0 -140334772.98834878
Gr6_re_1_1 0 s1 x6_re_a1 0 209740763.04490212
Gr6_im_1_1 0 s1 x6_im_a1 0 101520046.79339123
Gd1_2 0 s1 p2 0 0.011983143484944838
Fd1_2 0 s1 V2 0.5991571742472419
Gr1_re_1_2 0 s1 x1_re_a2 0 1446984106.9747732
Gr1_im_1_2 0 s1 x1_im_a2 0 -2733204200.754619
Gr2_re_1_2 0 s1 x2_re_a2 0 -2264526877.156935
Gr2_im_1_2 0 s1 x2_im_a2 0 -4891767297.261052
Gr3_re_1_2 0 s1 x3_re_a2 0 716153334.4043745
Gr3_im_1_2 0 s1 x3_im_a2 0 2073253905.2115135
Gr4_re_1_2 0 s1 x4_re_a2 0 -6070047406.929117
Gr4_im_1_2 0 s1 x4_im_a2 0 -2240431592.710861
Gr5_re_1_2 0 s1 x5_re_a2 0 -1570697274.1713135
Gr5_im_1_2 0 s1 x5_im_a2 0 4100903227.4551616
Gr6_re_1_2 0 s1 x6_re_a2 0 -5498731859.61452
Gr6_im_1_2 0 s1 x6_im_a2 0 2611504463.661795
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.6830781581114817e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 523100284565.46497
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -523100284565.46497
Rp1_im_im_a1 0 x1_im_a1 1.6830781581114817e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.431986404007821e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 507671123249.2346
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -507671123249.2346
Rp2_im_im_a1 0 x2_im_a1 1.431986404007821e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.0885415523646833e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 444957090768.42114
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -444957090768.42114
Rp3_im_im_a1 0 x3_im_a1 2.0885415523646833e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.3541322004739566e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 491632474111.5827
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -491632474111.5827
Rp4_im_im_a1 0 x4_im_a1 1.3541322004739566e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.574272892685221e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 460313153065.9877
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -460313153065.9877
Rp5_im_im_a1 0 x5_im_a1 1.574272892685221e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.4089119906106634e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 475992571194.90454
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -475992571194.90454
Rp6_im_im_a1 0 x6_im_a1 1.4089119906106634e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.011983143484944838
Fd2_1 0 s2 V1 0.5991571742472419
Gr1_re_2_1 0 s2 x1_re_a1 0 1446984106.9747732
Gr1_im_2_1 0 s2 x1_im_a1 0 -2733204200.754619
Gr2_re_2_1 0 s2 x2_re_a1 0 -2264526877.156935
Gr2_im_2_1 0 s2 x2_im_a1 0 -4891767297.261052
Gr3_re_2_1 0 s2 x3_re_a1 0 716153334.4043745
Gr3_im_2_1 0 s2 x3_im_a1 0 2073253905.2115135
Gr4_re_2_1 0 s2 x4_re_a1 0 -6070047406.929117
Gr4_im_2_1 0 s2 x4_im_a1 0 -2240431592.710861
Gr5_re_2_1 0 s2 x5_re_a1 0 -1570697274.1713135
Gr5_im_2_1 0 s2 x5_im_a1 0 4100903227.4551616
Gr6_re_2_1 0 s2 x6_re_a1 0 -5498731859.61452
Gr6_im_2_1 0 s2 x6_im_a1 0 2611504463.661795
Gd2_2 0 s2 p2 0 0.0019076625810724955
Fd2_2 0 s2 V2 0.09538312905362478
Gr1_re_2_2 0 s2 x1_re_a2 0 -349517068.8018527
Gr1_im_2_2 0 s2 x1_im_a2 0 351234494.1494095
Gr2_re_2_2 0 s2 x2_re_a2 0 -192890849.73483726
Gr2_im_2_2 0 s2 x2_im_a2 0 476172700.1178233
Gr3_re_2_2 0 s2 x3_re_a2 0 432095684.311312
Gr3_im_2_2 0 s2 x3_im_a2 0 696582094.4525155
Gr4_re_2_2 0 s2 x4_re_a2 0 -118707677.10547048
Gr4_im_2_2 0 s2 x4_im_a2 0 -149607236.9090243
Gr5_re_2_2 0 s2 x5_re_a2 0 107836474.09889284
Gr5_im_2_2 0 s2 x5_im_a2 0 -630771080.7037165
Gr6_re_2_2 0 s2 x6_re_a2 0 -84800313.16143057
Gr6_im_2_2 0 s2 x6_im_a2 0 528481212.48509735
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.6830781581114817e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 523100284565.46497
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -523100284565.46497
Rp1_im_im_a2 0 x1_im_a2 1.6830781581114817e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.431986404007821e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 507671123249.2346
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -507671123249.2346
Rp2_im_im_a2 0 x2_im_a2 1.431986404007821e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.0885415523646833e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 444957090768.42114
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -444957090768.42114
Rp3_im_im_a2 0 x3_im_a2 2.0885415523646833e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.3541322004739566e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 491632474111.5827
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -491632474111.5827
Rp4_im_im_a2 0 x4_im_a2 1.3541322004739566e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.574272892685221e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 460313153065.9877
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -460313153065.9877
Rp5_im_im_a2 0 x5_im_a2 1.574272892685221e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.4089119906106634e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 475992571194.90454
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -475992571194.90454
Rp6_im_im_a2 0 x6_im_a2 1.4089119906106634e-10
.ENDS s_equivalent
